US04178456
Preparation of 2-(5-carboxy-4-thiapentyl)-4-hydroxycyclopent-2-en-1-one
The solution, containing crude 3-hydroxy-2-[3-(carbethoxymethylthio)propyl]cyclopent-4-en-1-one, is cooled and treated during 10 minutes with 75 ml of sulfuric acid (d=1.84) with stirring. The stirred solution is refluxed for 16 hours, cooled, saturated with sodium chloride, and extracted with ethyl acetate. The extract is washed with brine, dried over magnesium sulfate, and concentrated. The residue is subjected to chromatography on silica gel with chloroform progessively enriched in ether, ether, and other progressively enriched in acetone to afford the subject compound as an oil.

reactant | 3-hydroxy-2-[3-(carbethoxymethylthio)propyl]cyclopent-4-en-1-one | OC1C(C(C=C1)=O)CCCSCC(=O)OCC | C12H18O4S
reactant | sulfuric acid | 75 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium chloride | [Cl-].[Na+]
product | 2-(5-carboxy-4-thiapentyl)-4-hydroxycyclopent-2-en-1-one | C(=O)(O)CSCCCC=1C(CC(C1)O)=O | C10H14O4S
